US05888941
A solution of ethyl bromopyruvate (354 mg, 1.8 mmol) and 4-chlorothiobenzamide (283 g, 1.65 mmol) in EtOH (40 mL) was refluxed for 3 h. The mixture was evaporated to dryness and the resulting oil was purified by flash chromatography to give ethyl 2-(4-chlorophenyl)thiazole-4-carboxylate as a colourless oil: 1H NMR (80 MHz, CDCl3) δ (TMS) 8.15 (s, 1H, thiazole), 7.95 (dt, Jt =2, Jd =8.5, 2H, arom), 7.42 (dt, Jt =2, Jd =8.5, 2H, arom), 4.45 (q, J=7, 2H, OCH2), 1.43 (t, J=7, 3H, OCH2CH3). Analysis calculated for C12H10ClNO2S: C 53.84; H 3.76; N 5.23; S 11.97. Found: C 53.65; H 3.77; N 5.23; S 11.51.

reactant | ethyl bromopyruvate | 1.8 mmol, 354 mg | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | 4-chlorothiobenzamide | 1.65 mmol, 283 g | ClC1=CC=C(C(=S)N)C=C1 | C7H6ClNS
solvent | EtOH | 40 mL | CCO | C2H6O
product | ethyl 2-(4-chlorophenyl)thiazole-4-carboxylate | ClC1=CC=C(C=C1)C=1SC=C(N1)C(=O)OCC | C12H10ClNO2S
